US04614614
Example 13: N-allyl-N-phenylthiomethylammonium chloride
A solution of 20.73 g (0.1 mol) of 1,3,5-triallylhexahydro-1,3,5-triazine in 150 ml of diethyl ether is added dropwise at -20° to a solution of 12 g of hydrogen chloride in 130 ml of diethyl ether and the resulting suspension of white crystals is stirred for a further 15 minutes at that temperature. 30.6 ml (0.3 mol) of thiophenol are then added thereto in one portion and the reaction mixture is stirred for 20 hours at room temperature. The crystals of the title compound that are formed are filtered off with suction and washed on the filter with diethyl ether.

reactant | 1,3,5-triallylhexahydro-1,3,5-triazine | 0.1 mol, 20.73 g | C(C=C)N1CN(CN(C1)CC=C)CC=C | C12H21N3
reactant | hydrogen chloride | 12 g | Cl | ClH
reactant | thiophenol | 0.3 mol, 30.6 ml | C1(=CC=CC=C1)S | C6H6S
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 130 ml | C(C)OCC | C4H10O
product | N-allyl-N-phenylthiomethylammonium chloride | [Cl-].C(C=C)[NH2+]CSC1=CC=CC=C1 | InChI=1S/C10H13NS.ClH/c1-2-8-11-9-12-10-6-4-3-5-7-10;/h2-7,11H,1,8-9H2;1H
